*$
* PART NUMBER: NJM353
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.Subckt NJM353 OUT1 -IN1 +IN1 VEE +IN2 -IN2 OUT2 VCC
X_U1     +IN1 -IN1 VCC VEE OUT1 NJM353_ME
X_U2     +IN2 -IN2 VCC VEE OUT2 NJM353_ME
.ends  NJM353
.subckt NJM353_ME   1 2 3 4 5
  c1   11 12 2.5981E-12
  c2    6  7 9.0000E-12
  css  10 99 1.0000E-30
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 20.536E6 -1E3 1E3 21E6 -21E6
  ga    6  0 11 12 190.00E-6
  gcm   0  6 10 99 1.9000E-9
  iss   3 10 dc 120.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx1
  j2   12  1 10 jx2
  r2    6  9 100.00E3
  rd1   4 11 5.1340E3
  rd2   4 12 5.1340E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8000E3
  rss  10 99 1.6667E6
  vb    9  0 dc 0
  vc    3 53 dc 2.2979
  ve   54  4 dc 2.2979
  vlim  7  8 dc 0
  vlp  91  0 dc 3.0500
  vln   0 92 dc 3.0500
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 PJF(Is=23.750E-12 Beta=300.83E-6 Vto=-.995)
.model jx2 PJF(Is=11.250E-12 Beta=300.83E-6 Vto=-1.005000)
.ends
*$
