* C:\users\mainster\My Documents\CODES_local\LTSpice_projects\bandgap_zelle\transistorzelle_mit_startsch_mit_op.asc
Qa1 a Vref N004 0 CA3046
Qb1 b Vref N003 0 CA3046
Ra1 N001 a 1k
Rb1 N001 b {Rb1}
R2 N003 N004 1k
R1 N004 0 {R1}
Vp1 N001 0 15
Qb2 b N002 N003 0 CA3046
Rs N001 N002 10k
D1 N002 0 1N4148
XU1 a b RefOut opamp_param_3 Vp=10 Vm=-10 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 RefOut BG 800
R4 BG 0 1k
Rop Vref BG {Rop}
.model D D
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib Z:\home\mainster\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.dc temp 0 100 2
.param Rdc=1m
.param Rop=1u
.param Rs=10k
* .step param Rs list 1k 10k 100k
.param R1=925
* .step param R1 800 925 35
.param Rb1=10k
;.step param Rb1 list  10k 9k 7k
.lib EIT_sub\opamp_parametrierbar.sub
.backanno
.end
