* Z:\media\data\CODES\LTSpice_projects\complex_mixer\complex_mixer_new.asc
A1 N002 0 0 0 0 In Qa 0 MODULATOR space={F0} mark={F1}
V1 N002 0 PULSE(0 1 0 {tb} 0)
B1 InDout 0 V=V(InD)*V(LoIn)
B2 QaDout 0 V={QFAKTOR}*V(QaD)*V(LoQa)
A2 In 0 N001 0 0 0 InD 0 SAMPLEHOLD
V2 N001 0 PULSE(0 1 0 1n 1n {1/(2*fa1)} {1/fa1})
A3 Qa 0 N001 0 0 0 QaD 0 SAMPLEHOLD
V3 LoIn 0 SINE(0 1 {flo} 0 0 0)
V4 LoQa 0 SINE(0 1 {flo} 0 0 270)
B3 RF 0 V=V(InDout)-V(QaDout)
R1 In Qa 1000meg
.param fc=37meg
.param B1=10meg
.param F0=0
.param F1=B1
.param tb = 5u
.param QFAKTOR = 1
.tran 0 {tb} 0
.param fa1=40meg
.param flo=698Meg
.options plotwinsize=0
.OPTIONS numdgt=7
* .step param QFAKTOR list 0.1 0.3 0.5 1
.backanno
.end
